US07196090B2
(4S,5R)-2,2,5-Trimethyl-[1,3]dioxolane-4-carboxylic Acid Benzylamide
A flask was charged with 70 mL dry tetrahydrofuran, 3.17 g (17.7 mmol) (4S,5R)-2,2,5-trimethyl[1,3]dioxolane-4-carbonyl chloride, and the solution was cooled in a 0° C. bath. To this solution, 3.48 mL (31.9 mmol) benzyl amine was slowly added, and a precipitate formed immediately. The reaction mixture was stirred for 1 hour at 0° C. and 1 hour at room temperature. The reaction mixture was filtered through Celite to remove salts, and the tetrahydrofuran was removed under reduced pressure giving 4.41 g (100%) of the title compound as a yellow oil. No further purification was necessary. MS (APCI) (m+1)/z 250.1.

reactant | (4S,5R)-2,2,5-trimethyl[1,3]dioxolane-4-carbonyl chloride | 17.7 mmol, 3.17 g | CC1(O[C@@H]([C@H](O1)C(=O)Cl)C)C | C7H11ClO3
reactant | benzyl amine | 31.9 mmol, 3.48 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | (4S,5R)-2,2,5-Trimethyl-[1,3]dioxolane-4-carboxylic Acid Benzylamide | 4.41 g, 100% | C(C1=CC=CC=C1)NC(=O)[C@H]1OC(O[C@@H]1C)(C)C | C14H19NO3
